US06440966B1
Step f: Preparation of 2-(2-Chloro-4-iodo-phenylamino)-4-dimethylsulfamoyl-benzoic Acid
To a stirring cold (−78° C.) solution comprised of 2-chloro-4-iodoaniline (1 molar equivalent) in anhydrous tetrahydrofuran under a nitrogen atmosphere is added a commercially available lithium diisopropylamide solution (Aldrich, 2.0 M in tetrahydrofuran/heptane/ethylbenzene, 1 molar equivalent). After stirring for 5 minutes, a solution comprised of 4-dimethylsulfamoyl-2-fluoro-benzoic acid (1 molar equivalent) in tetrahydrofuran is added. The cold bath is removed and the reaction mixture is stirred for 2 hours. The reaction mixture is then partitioned between diethyl ether and dilute aqueous hydrochloric acid. The organic phase is washed with brine, dried over magnesium sulfate, and concentrated in vacuo to afford a product which may be purified by chromatography of recrystallization from an appropriate solvent like chloroform or heptane-ethanol.

reactant | 2-chloro-4-iodoaniline | 1 molar | ClC1=C(N)C=CC(=C1)I | C6H5ClIN
reactant | lithium diisopropylamide | 2.0 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-dimethylsulfamoyl-2-fluoro-benzoic acid | 1 molar | CN(S(=O)(=O)C1=CC(=C(C(=O)O)C=C1)F)C | C9H10FNO4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2-Chloro-4-iodo-phenylamino)-4-dimethylsulfamoyl-benzoic Acid | ClC1=C(C=CC(=C1)I)NC1=C(C(=O)O)C=CC(=C1)S(N(C)C)(=O)=O | C15H14ClIN2O4S
